US05189138
12,14-Diphenyl-12,14-bis(trifluoromethyl)-12H, 14H-5,7-dioxapentacene
A mixture of 20 g (0.03 mole) 12,14-Diphenyl-12,14-bis(trifluoromethyl) -12H,14H-5,7-dioxapentacene-2,3,9,10-tetracarboxylic acid, 25 g copper powder and 100 ml quinoline was refluxed vigorously for 4 hours. The cooled mixture was poured into a cold solution of 30 ml concentrated HCl in 300 ml water. The product was extracted with methylene chloride, and the extracts were passed through a column of alumina, and the eluate was stripped. The residue was stirred with methanol, and was filtered yielding 2.5 g (16 %) of a solid in two crops. The crude material melted at 203-213° C., in line with the presence of cis- and trans- isomers. The title compound was purified by vacuum sublimation at 0.6 Torr and 200° C., and melted then at 209-215° C. Analysis: Calc. for C34H20F6O2 : C 71.1; H 3.48, F 19.9; found: C 71.4; H 3.65; F 19.9 %. The mass spectrum showed presence of two isomers in about 2:1 ratio, and a parent peak at 574, with peaks at 505 and 436 m/e showing loss of one and two CF3 groups, respectively. The NMR spectrum had complex multiplets in the 7.2-7.35 and 6.9-7.1 ppm range (totaling 17 Hs), plus two pairs of broad singlets at 6.86+6.84 ppm (2H) and 6.32+6.22 ppm (1H). The coefficient of thermal expansion (CTE) was found to be 34 ppm (0-200° C.) by thermomechanical analysis (TMA) at 10° C. per minute.

reactant | 12,14-Diphenyl-12,14-bis(trifluoromethyl) -12H,14H-5,7-dioxapentacene-2,3,9,10-tetracarboxylic acid | 0.03 mole, 20 g | C1(=CC=CC=C1)C1(C2=CC(=C(C=C2OC=2C=C3OC=4C=C(C(=CC4C(C3=CC12)(C(F)(F)F)C1=CC=CC=C1)C(=O)O)C(=O)O)C(=O)O)C(=O)O)C(F)(F)F | C38H20F6O10
reactant | quinoline | 100 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | HCl | 30 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
catalyst | copper | 25 g | [Cu] | Cu
product | 12,14-Diphenyl-12,14-bis(trifluoromethyl)-12H, 14H-5,7-dioxapentacene | 2.5 g, 16 % | C1(=CC=CC=C1)C1(C2=CC=CC=C2OC=2C=C3OC=4C=CC=CC4C(C3=CC12)(C(F)(F)F)C1=CC=CC=C1)C(F)(F)F | C34H20F6O2
